US07767675B2
Step 1. 2-(4-bromo-2-fluorophenyl)-2-hydroxy-N-methylacetamide
N,N-Diisopropylethylamine (0.2 mL, 0.001 mol) was added to a mixture of (4-bromo-2-fluorophenyl)(hydroxy)acetic acid (0.1 g, 0.4 mmol), methylamine (2M in THF, 0.24 mL, 0.48 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.21 g, 0.00048 mol) in methylene chloride (2 mL). The mixture was stirred at RT for 2 h. The reaction mixture was concentrated. The residue was purified by chromatography on silica gel with 10% methanol in dichloromethane to afford the desired product. LCMS: (M+H)=261.9/263.9.

reactant | N,N-Diisopropylethylamine | 0.001 mol, 0.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-bromo-2-fluorophenyl)(hydroxy)acetic acid | 0.4 mmol, 0.1 g | BrC1=CC(=C(C=C1)C(C(=O)O)O)F | C8H6BrFO3
reactant | methylamine | 0.48 mmol, 2M, 0.24 mL | CN | CH5N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.00048 mol, 0.21 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-bromo-2-fluorophenyl)-2-hydroxy-N-methylacetamide | BrC1=CC(=C(C=C1)C(C(=O)NC)O)F | C9H9BrFNO2
